US08859544B2
Methyl 2-amino-5-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate
0.365 mg (5.79 mmol) of ammonium formate and 0.102 g (0.1 mmol) of palladium-on-carbon (10%) are added, at ambient temperature under an inert atmosphere, to 0.8 g (1.93 mmol) of methyl 2-amino-5-{[1-(benzyloxy)-2-methylindolizin-3-yl]carbonyl}benzoate in 30 ml of DMF. The reaction medium is stirred for 3 hours at ambient temperature and then filtered. The palladium is rinsed with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate, filtered, and concentrated under reduced pressure. A green oil is obtained.

reactant | ammonium formate | 5.79 mmol, 0.365 mg | C(=O)[O-].[NH4+]
reactant | methyl 2-amino-5-{[1-(benzyloxy)-2-methylindolizin-3-yl]carbonyl}benzoate | 1.93 mmol, 0.8 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OCC1=CC=CC=C1)C | C25H22N2O4
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-carbon | 0.1 mmol, 0.102 g | [Pd] | Pd
product | Methyl 2-amino-5-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)O)C | C18H16N2O4
